US04639441
(a) p-Nitrobenzyl 2-(4-methylthio-2-azetidinon-1-yl)-2-(4-oxo-1,3-dithietan-2-ylidene)acetat
To a solution of 740 μl hexamethyldisilazane in 12 ml of tetrahydrofuran was added a solution of butyllithium in hexane (2.4 ml, 163 mmoles/ml) at room temperature, and then the mixture was stirred for 30 minutes. A solution of 620 mg of p-nitrobenzyl 2-(4-methylthio-2-azetidinon-1-yl)acetate in 8 ml of tetrahydrofuran was then added, after cooling the mixture of -78° C., after which it was stirred for 5 minutes. To the resulting solution was added carbon disulphide (181.2 μl), and the mixture was stirred for 20 minutes. A solution of phosgene (198 mg) in benzene (468 μl) was added to the solution, and stirring was continued at -78° C. for 1 hour. Acetic acid (680 μl) was added to the reaction mixture. The resulting mixture was diluted with ethyl acetate, washed successively with water and an aqueous solution of sodium chloride, and dried over anhydrous sodium sulphate. The solvent was distilled off under reduced pressure and the resulting residue was purified by column chromatography (eluent: a 4:1 by volume mixture of benzene and ethyl acetate), to give 703 mg of the desired compound as a foamy substance.

reactant | hexamethyldisilazane | 740 μl | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyllithium | C(CCC)[Li]
reactant | p-nitrobenzyl 2-(4-methylthio-2-azetidinon-1-yl)acetate | 620 mg | CSC1CC(N1CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H14N2O5S
reactant | phosgene | 198 mg | C(=O)(Cl)Cl | CCl2O
reactant | carbon disulphide | 181.2 μl | C(=S)=S | CS2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | hexane | 163 mmoles/ml, 2.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | benzene | 468 μl | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Acetic acid | 680 μl | C(C)(=O)O | C2H4O2
product | p-Nitrobenzyl 2-(4-methylthio-2-azetidinon-1-yl)-2-(4-oxo-1,3-dithietan-2-ylidene)acetat | 703 mg | CSC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C1SC(S1)=O)=O | C15H12N2O6S3
